US08486962B2
To slurry of 50% sodium hydride (340 mg, 14.2 mmol) in anhydrous THF was added 3-nitrophenol (1 g, 7.1 mmol) at 0° C. After 10 min at 0-5° C., diethyl carbamyl chloride (1.5 g, 111.0 mmol) was added and the reaction mixture heated to reflux for 12 hr. The reaction mixture was cooled, ice water added, and filtered. The filtrate was concentrated to give the crude product, which was purified by column chromatography over silica gel, using hexane/ethyl acetate (85:15) as eluent to afford diethyl-carbamic acid-3-nitro-phenyl ester (300 mg, 17%).

reactant | sodium hydride | 14.2 mmol, 340 mg | [H-].[Na+]
reactant | 3-nitrophenol | 7.1 mmol, 1 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | diethyl carbamyl chloride | 111.0 mmol, 1.5 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | THF | C1CCOC1 | C4H8O
product | diethyl-carbamic acid-3-nitro-phenyl ester | 300 mg, 17% | [N+](=O)([O-])C=1C=C(C=CC1)OC(N(CC)CC)=O | C11H14N2O4
